.title amp_nmcf
* Test OpAmp ACDC

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
.subckt Leung_NMCF_Pin_3 gnda vdda vinn vinp vout Ib
XM11 vout net050 vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_11_1_l_gmf2_pmos w='mosfet_11_1_w_gmf2_pmos*1'  m=mosfet_11_1_m_gmf2_pmos   
XM7 net049 Ib vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m=mosfet_0_8_m_biascm_pmos  
XM10 net043 net050 vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_10_1_l_gm2_pmos w='mosfet_10_1_w_gm2_pmos*1'  m=mosfet_10_1_m_gm2_pmos 
XM6 net050 voutn vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m=mosfet_0_8_m_biascm_pmos 
XM5 voutn voutn vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m=mosfet_0_8_m_biascm_pmos   
XM9 net063 vinp net31 net31 sky130_fd_pr__pfet_01v8 l=mosfet_8_2_l_gm1_pmos w='mosfet_8_2_w_gm1_pmos*1'  m=mosfet_8_2_m_gm1_pmos  
XM8 dm_2 vinn net31 net31 sky130_fd_pr__pfet_01v8 l=mosfet_8_2_l_gm1_pmos w='mosfet_8_2_w_gm1_pmos*1'  m=mosfet_8_2_m_gm1_pmos  
XM4 net31 Ib vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m='4*mosfet_0_8_m_biascm_pmos'  
XM3 vb3 Ib vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m=mosfet_0_8_m_biascm_pmos   
XM2 dm_1 Ib vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m=mosfet_0_8_m_biascm_pmos  
XM1 vb4 Ib vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m=mosfet_0_8_m_biascm_pmos  
XM0 Ib Ib vdda vdda sky130_fd_pr__pfet_01v8 l=mosfet_0_8_l_biascm_pmos w='mosfet_0_8_w_biascm_pmos*1'  m=mosfet_0_8_m_biascm_pmos   
XM23 vout net049 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_23_1_l_gm3_nmos w='mosfet_23_1_w_gm3_nmos*1'  m=mosfet_23_1_m_gm3_nmos  
XM22 net049 net043 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_21_2_l_load2_nmos w='mosfet_21_2_w_load2_nmos*1'  m=mosfet_21_2_m_load2_nmos   
XM21 net043 net043 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_21_2_l_load2_nmos w='mosfet_21_2_w_load2_nmos*1'  m=mosfet_21_2_m_load2_nmos   
XM19 dm_2 vb4 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*8'  
XM15 voutn vb3 dm_2 gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*4'   
XM20 net063 vb4 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*8'  
XM16 net050 vb3 net063 gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*4'
XM17 net54 vb4 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*4'   
XM14 vb3 vb3 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m=mosfet_17_7_m_biascm_nmos  
XM12 vb4 vb3 net54 gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*4'  
XM18 net56 vb4 gnda gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*4'   
XM13 dm_1 vb3 net56 gnda sky130_fd_pr__nfet_01v8 l=mosfet_17_7_l_biascm_nmos w='mosfet_17_7_w_biascm_nmos*1'  m='mosfet_17_7_m_biascm_nmos*4'   
XC0 net050 vout sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_C0 m=M_C0
XC1 net049 vout sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_C1 m=M_C1
.ends Leung_NMCF_Pin_3

.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "../../sky130_pdk/libs.tech/ngspice/sky130.lib.spice" tt
* (removed r+c include)
* (removed r+c include)
* (removed specialized_cells include)

***************************************
* Step 2: Replace circuit param.  here.
*************************************** 
.PARAM supply_voltage = 1.8
.PARAM VCM_ratio = 0.25
.PARAM PARAM_CLOAD =100.00p 
.param MOSFET_0_8_W_BIASCM_PMOS=0.999118  MOSFET_0_8_L_BIASCM_PMOS=1.011995 MOSFET_0_8_M_BIASCM_PMOS=7
.param MOSFET_8_2_W_gm1_PMOS=8.701178 MOSFET_8_2_L_gm1_PMOS=0.522740 MOSFET_8_2_M_gm1_PMOS=6
.param MOSFET_10_1_W_gm2_PMOS=2.993050 MOSFET_10_1_L_gm2_PMOS=2.054409 MOSFET_10_1_M_gm2_PMOS=27
.param MOSFET_11_1_W_gmf2_PMOS=1.451549 MOSFET_11_1_L_gmf2_PMOS=0.667516 MOSFET_11_1_M_gmf2_PMOS=263
.param MOSFET_17_7_W_BIASCM_NMOS=1.556118 MOSFET_17_7_L_BIASCM_NMOS=0.590141 MOSFET_17_7_M_BIASCM_NMOS=1
.param MOSFET_21_2_W_LOAD2_NMOS=7.399736 MOSFET_21_2_L_LOAD2_NMOS=0.648895 MOSFET_21_2_M_LOAD2_NMOS=21
.param MOSFET_23_1_W_gm3_NMOS=9.822251 MOSFET_23_1_L_gm3_NMOS=3.580161 MOSFET_23_1_M_gm3_NMOS=17
.param CURRENT_0_BIAS=4.959151e-06
.param M_C0=1
.param M_C1=12



V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc opin 0 'supply_voltage*VCM_ratio'
Vin signal_in 0 dc 'supply_voltage*VCM_ratio' ac 1 sin('supply_voltage*VCM_ratio' 100m 500)

Lfb opout opout_dc 1T
Cin opout_dc signal_in 1T

* Circuit List:
* Leung_NMCNR_Pin_3
* Leung_NMCF_Pin_3
* Leung_DFCFC1_Pin_3
* Leung_DFCFC2_Pin_3

* XOP gnda vdda vinn vinp vout Ib
*        |  |     |     |   |  | 
*        |  |     |     |   |  bias current
*        |  |     |     |   Output
*        |  |     |     Non-inverting Input
*        |  |     Inverting Input
*        |  Positive Supply
*        Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Leung_NMCNR_Pin_3 -> Leung_NMCF_Pin_3
*************************************** 
*    ADM TB 
Ib Ib gnda DC='current_0_bias'
x1 vss vdd opout_dc opin opout Ib Leung_NMCF_Pin_3
Cload1 opout 0 'PARAM_CLOAD'

*   ACM TB    
vcmdc cm0 0 'supply_voltage*VCM_ratio'
vcmac1 cm1 cm0 0 ac=1
vcmac2 cm2 cm3 0 ac=1
Ib2 Ib2 gnda DC='current_0_bias'
x2 vss vdd cm2 cm1 cm3 Ib2 Leung_NMCF_Pin_3
Cload2 cm3 0 'PARAM_CLOAD'

* PSRR   TB   
VGNDApsrr gndpsrr 0 0 AC=1
VVDDApsrr vddpsrr 0 'supply_voltage'  AC=1
Ib3 Ib3 gnda DC='current_0_bias'
x3 vss vddpsrr ppsr1 opin ppsr1 Ib3 Leung_NMCF_Pin_3
Cload3 ppsr1 0 'PARAM_CLOAD'

Ib4 Ib4 gnda DC='current_0_bias'
x4 gndpsrr vdd npsr1 opin npsr1 Ib4 Leung_NMCF_Pin_3
Cload4 npsr1 0 'PARAM_CLOAD'

* DC ALL  TB  
VVDDdc VDDdc 0 'supply_voltage' 
Ib5 Ib5 gnda DC='current_0_bias'
x5 vss vdddc vout6 opin vout6 Ib5 Leung_NMCF_Pin_3
Cload5 vout6 0 'PARAM_CLOAD'

.control
save all
.options savecurrents 
set filetype=ascii
set units=degrees

DC temp -40 125 1
* TC meas   
meas dc maxval MAX V(vout6) from=-40 to=125
meas dc minval MIN V(vout6) from=-40 to=125
meas dc avgval AVG V(vout6) from=-40 to=125
meas dc ppavl  PP V(vout6) from=-40 to=125
let TC = ppavl/avgval/165
* Power meas   
meas dc Ivdd25 FIND I(VVDDDC) AT=25
let Power_ = -1 * Ivdd25 * 1.8
let Power = Power_ * 1e3
*   Vos.meas   
meas dc vout25 FIND V(vout6) AT=25
let vos25 = vout25 - 1.8 * 0.25
wrdata AMP_NMCF_ACDC_DC TC Power vos25
plot v(vout6)

ac dec 10 0.1 1G
meas ac cmrrdc find vdb(cm3) at = 0.1 
meas ac dcgain_ find vdb(opout) at = 0.1
let dcgain = abs(dcgain_)
meas ac gain_bandwidth_product_ when vdb(opout)=0
let gbp = gain_bandwidth_product_*1e-4
meas ac phase_margin find vp(opout) when vdb(opout)=0
meas ac DCPSRp find vdb(ppsr1) at = 0.1
meas ac DCPSRn find vdb(npsr1) at = 0.1
wrdata AMP_NMCF_ACDC_AC cmrrdc DCPSRp DCPSRn dcgain_ 
wrdata AMP_NMCF_ACDC_GBW_PM gain_bandwidth_product_ phase_margin 
plot vdb(opout) vdb(cm3) vdb(ppsr1) vdb(npsr1) vp(opout)

* OP
op

.endc

.end